US09102621B2
3-Chloro-4-[(5-chloro-6-methoxypyridin-3-yl)methoxy]benzamide
To a suspension of 3-chloro-4-[(5-chloro-6-methoxypyridin-3-yl)methoxy]benzonitrile (Preparation 30, 64 mg, 0.21 mmol) and potassium carbonate (57 mg, 0.414 mmol) in DMSO (5 mL) was added hydrogen peroxide (141 mL, 4.14 mmol) and the reaction stirred at room temperature for 1 hour. The reaction was quenched with water (10 mL) and extracted with EtOAc (10 mL). The organic layer was washed with water (2×10 mL), dried over sodium sulfate and concentrated in vacuo to afford a white solid, which was triturated with EtOAc to yield the title compound (30 mg, 44%).

reactant | 3-chloro-4-[(5-chloro-6-methoxypyridin-3-yl)methoxy]benzonitrile | 0.21 mmol, 64 mg | ClC=1C=C(C#N)C=CC1OCC=1C=NC(=C(C1)Cl)OC | C14H10Cl2N2O2
reactant | potassium carbonate | 0.414 mmol, 57 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 4.14 mmol, 141 mL | OO | H2O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 3-Chloro-4-[(5-chloro-6-methoxypyridin-3-yl)methoxy]benzamide | 30 mg, 44% | ClC=1C=C(C(=O)N)C=CC1OCC=1C=NC(=C(C1)Cl)OC | C14H12Cl2N2O3
